US07312330B2
C. 2-Benzyl-N5-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline-5,7-diamine
Sodium iodide (252 mg, 1.68 mmol) and hydriodic acid (1 mL, 47% aqueous solution) were added to the solution of 2-benzyl-5-chloro-1,2,3,4-tetrahydroisoquinolin-7-amine (380 mg, 1.4 mmol) and 4-aminobenzotrifluoride (446 mg, 2.8 mmol) in dioxane (10 mL) and the reaction solution was stirred at 100° C. over night before solvent was removed in vacuo. Residue was dissolved in ethyl acetate, washed by water, brine, dried over sodium sulfate and was purified by column chromatography. Product was obtained as brown oil (440 mg, 79%).

reactant | Sodium iodide | 1.68 mmol, 252 mg | [I-].[Na+]
reactant | hydriodic acid | 1 mL | I | HI
reactant | 2-benzyl-5-chloro-1,2,3,4-tetrahydroisoquinolin-7-amine | 1.4 mmol, 380 mg | C(C1=CC=CC=C1)N1CC2=CC(=CC(=C2CC1)Cl)N | C16H17ClN2
reactant | 4-aminobenzotrifluoride | 2.8 mmol, 446 mg | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-Benzyl-N5-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline-5,7-diamine | 440 mg, 79% | C(C1=CC=CC=C1)N1CC=2C=C(C=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F)N | C23H22F3N3
